US08034533B2
Synthesis of 1-(2-oxo-2-p-tolyl-ethyl)-tetrahydro-thiophenium bromide
To a solution of 2-bromo-4′-methylacetophenone (19.18 g, 90 mmol) in 120 mL of acetone and 4.9 mL of water at 0° C. was added tetrahydrothiophene (15.87 g, 180 mmol) dropwise. The resulting mixture was stirred at 0° C. for 1 hour before solid precipitated and was then stirred at room temperature for 1 hour. The resulting crude product was filtered through glass frit as solid and was washed by 100 mL of cold acetone. The crude product was recrystallized by 150 mL of ethanol to afford 19.8 g pure product at a yield of 73%. 1HNMR, d6-DMSO: 7.92 (d, 8.0 Hz, 2H), 7.43 (d, 8.0 Hz, 2H), 5.39 (s, 2H), 3.57 (m, 4H), 2.42 (s, 3H), 2.27 (m, 2H), 2.19 (m, 2H).

reactant | 2-bromo-4′-methylacetophenone | 90 mmol, 19.18 g | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | tetrahydrothiophene | 180 mmol, 15.87 g | S1CCCC1 | C4H8S
solvent | acetone | 120 mL | CC(=O)C | C3H6O
solvent | water | 4.9 mL | O | H2O
product | 1-(2-oxo-2-p-tolyl-ethyl)-tetrahydro-thiophenium bromide | 19.8 g, yield of 73% | [Br-].O=C(C[S+]1CCCC1)C1=CC=C(C=C1)C | InChI=1S/C13H17OS.BrH/c1-11-4-6-12(7-5-11)13(14)10-15-8-2-3-9-15;/h4-7H,2-3,8-10H2,1H3;1H/q+1;/p-1
